US05266677
Synthesis of 1,3-Bis(2-chlorothiophenoyl)Benzene Monomer
A solution of 2-chlorothiophene (0.128 mol) in 20 mL of carbon disulfide was added to a stirred suspension of isophthaloyl chloride (0.064 mol) and anhydrous aluminum chloride (0.1408 mol) in 100 mL of carbon disulfide. The reaction mixture was heated to reflux, stirred under nitrogen for 3 hours, and poured into 300 mL of water. The organic layer was separated immediately, then washed twice with 300 mL of 10% NaOH, twice with 300 mL of 5% HCl, and once with 500 mL of water. The product was recrystallized twice from ethyl acetate to form light yellow crystals in a 75% yield. Purity was determined by GC to be greater than 99.9%.

reactant | 2-chlorothiophene | 0.128 mol | ClC=1SC=CC1 | C4H3ClS
reactant | isophthaloyl chloride | 0.064 mol | C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | C8H4Cl2O2
reactant | aluminum chloride | 0.1408 mol | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | 300 mL | O | H2O
solvent | carbon disulfide | 20 mL | C(=S)=S | CS2
solvent | carbon disulfide | 100 mL | C(=S)=S | CS2
product | 1,3-Bis(2-chlorothiophenoyl)Benzene | 75% yield | ClC1(SC=CC1)C(=O)C1=CC(=CC=C1)C(=O)C1(SC=CC1)Cl | C16H12Cl2O2S2
